US08802659B2
2-((trans)-4-(2-methoxypropan-2-yl)cyclohexyloxy)tetrahydro-2H-pyran
To a solution of 2-((trans)-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)propan-2-ol (1.56 g, 6.5 mmol) in THF (10 mL) was added NaH (300 mg, 13 mmol, 2.0 eq) slowly at r.t. and then CH3I (1.96 g, 13 mmol, 2.0 eq) was added in one portion. The mixture was stirred at 50° C. for 2 h, Water (10 mL) was added and the mixture was extracted with EA (30 mL×3), dried and concentrated to give the title compound as a colorless oil (1.2 g, yield: 72%). 1H NMR (400 MHz, CDCl3) δ: 4.64 (t, 1H), 3.93-3.89 (m, 2H), 3.51-3.47 (m, 1H), 3.17 (s, 3H), 1.97-1.85 (m, 3H), 1.70-1.67 (m, 1H), 1.58-1.43 (m, 9H), 1.34-1.27 (m, 2H), 1.09 (d, 6H).

reactant | 2-((trans)-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl)propan-2-ol | 6.5 mmol, 1.56 g | O1C(CCCC1)O[C@@H]1CC[C@H](CC1)C(C)(C)O | C14H26O3
reactant | NaH | 13 mmol, 300 mg, 2.0 eq | [H-].[Na+]
reactant | CH3I | 13 mmol, 1.96 g, 2.0 eq | CI | CH3I
reactant | Water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-((trans)-4-(2-methoxypropan-2-yl)cyclohexyloxy)tetrahydro-2H-pyran | 1.2 g, yield: 72% | COC(C)(C)[C@@H]1CC[C@H](CC1)OC1OCCCC1 | C15H28O3
